US07923456B2
Step 2: 5-(4-Bromo-2-fluorophenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid methyl ester
To a solution of 2-(4-Bromo-2-fluorophenylamino)-6-formylaminomethylnicotinic acid methyl ester (11.8 g, 30.9 mmol) in toluene (550 mL) was added phosphorous (V) oxychloride (3.16 mL, 34 mmol) and the reaction mixture heated at 95° C. for 1 hour. The reaction mixture was concentrated in vacuo and treated with aqueous saturated sodium hydrogen carbonate solution then extracted twice with ethyl acetate. The combined organic fractions were washed with brine, dried (Na2SO4) and concentrated in vacuo. The resultant residue was subjected to flash chromatography (Si-PPC, gradient 0-30% ethyl acetate in DCM) to yield the title compound as a brown oil (5.4 g, 49%). LCMS (Method B): RT=3.56 min, M+H+=364/366.

reactant | 2-(4-Bromo-2-fluorophenylamino)-6-formylaminomethylnicotinic acid methyl ester | 30.9 mmol, 11.8 g | COC(C1=C(N=C(C=C1)CNC=O)NC1=C(C=C(C=C1)Br)F)=O | C15H13BrFN3O3
reactant | phosphorous (V) oxychloride | 34 mmol, 3.16 mL | O(Cl)Cl.[P+5]
solvent | toluene | 550 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(4-Bromo-2-fluorophenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid methyl ester | 5.4 g, 49% | COC(=O)C=1C=CC=2N(C1NC1=C(C=C(C=C1)Br)F)C=NC2 | C15H11BrFN3O2
